* Title: Simple circuit
.options savecurrents

*Description of the circuit

*Independent Voltage source
Va 1 0 5.23936486299

*Independent Current source
C1 6 8 1u

*Dummy voltage source to measure the current in R6
Vo 6 8 0

*2 controled elements
H1 4 7 Vo 8.25247516035K
G1 5 3 2 4 7.31630468385m

*Resist
R1 1 2 1.04309563061K
R2 3 2 2.01744623407K
R3 2 4 3.13691375104K
R4 4 0 4.15429988186K
R5 4 5 3.07915362723K
R6 0 6 2.02592738504K
R7 8 7 1.04226655522K

*.include ../doc/t2_4.cir

.ic v(6) = 8.403876e+00
.ic v(8) = 0

.control
*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0
set units=degrees

op

echo "********************************************"
echo  "Transient analysis"
echo "********************************************"
tran 0.01m 20m
hardcopy forced.ps v(1) v(6) {v(6)-v(8)}
echo forced_FIG

echo "********************************************"
echo  "Frequency analysis"
echo "********************************************"
ac dec 100 0.1 1MEG
hardcopy acm.ps vdb(6) vdb(1) db(v(6)-v(8))
echo acm_FIG
hardcopy acp.ps vp(6) vp(1)
echo acp_FIG

quit
.endc

.end

